US06987116B2
A mixture of 7-chloro-2-iodo-thieno[3,2-b]pyridine-6-carbonitrile (1.00 g, 3.12 mmol), 4-formylphenylboronic acid (936 mg, 6.24 mmol) and 108 mgs of tetrakis(triphenylphosphine)palladium(0) in 30 mL of ethylene glycol dimethyl ether and 25 mL of aqueous saturated sodium bicarbonate is heated at reflux for 4 hours. The mixture is cooled and the precipitate is collected by filtration washing with ethyl acetate and diethyl ether to provide 818 mg of 7-chloro-2-(4-formylphenyl)thieno[3,2-b]pyridine-6-carbonitrile as a yellow solid, mp 300-305° C.; 1H NMR (CDCl3) δ 7.93 (d, J=8 Hz, 2H), 7.96 (s, 1H), 8.03 (d, J=8 Hz, 2H), 8.87 (s, 1H), 10.1 (s, 1H), MS 298.0, 300.0 (M−H)−H.

reactant | 7-chloro-2-iodo-thieno[3,2-b]pyridine-6-carbonitrile | 3.12 mmol, 1.00 g | ClC1=C2C(=NC=C1C#N)C=C(S2)I | C8H2ClIN2S
reactant | 4-formylphenylboronic acid | 6.24 mmol, 936 mg | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
solvent | ethylene glycol dimethyl ether | 30 mL | COCCOC | C4H10O2
solvent | sodium bicarbonate | 25 mL | C([O-])(O)=O.[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 108 mgs | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-chloro-2-(4-formylphenyl)thieno[3,2-b]pyridine-6-carbonitrile | 818 mg | ClC1=C2C(=NC=C1C#N)C=C(S2)C2=CC=C(C=C2)C=O | C15H7ClN2OS
